US07173031B2
To a solution/suspension of 4-fluorophenylacetamide (77 mg, 0.50 mmol, see generally, J. Med. Chem. 2003, 46, 4333–4341, the disclosure of which is herein incorporated by referene) in dichloroethane (2 mL) was added oxalyl chloride (0.175 mL, 2.00 mmol). The reaction was heated at 80° C. for 24 h and then 70° C. for two days. By this time, most of the solids had dissolved and the reaction was yellow. LC/MS analysis found a peak with a molecular weight of 211 corresponding to methyl 2-(4-fluorophenyl)acetylcarbamate, resulting from quenching of the isocyanate with methanol. The reaction was concentrated in vacuo to give a yellow slurry. The slurry was redissolved in dichloroethane (2 mL) and again concentrated in vacuo. The resulting residue was redissolved again in dichloroethane (2 mL) to give a 0.25 M solution of 2-(4-fluorophenyl)acetyl isocyanate in dichloroethane, which was used directly in subsequent reactions.

reactant | 4-fluorophenylacetamide | FC1=CC=C(C=C1)CC(=O)N | C8H8FNO
reactant | oxalyl chloride | 2.00 mmol, 0.175 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | methyl 2-(4-fluorophenyl)acetylcarbamate | FC1=CC=C(C=C1)CC(=O)NC(OC)=O | C10H10FNO3
solvent | dichloroethane | 2 mL | ClC(C)Cl | C2H4Cl2
solvent | dichloroethane | 2 mL | ClC(C)Cl | C2H4Cl2
product | 2-(4-fluorophenyl)acetyl isocyanate | FC1=CC=C(C=C1)CC(=O)N=C=O | C9H6FNO2
